US05110956
(6-Isopropyl-1,3-benzodioxol-5-yl)acetic acid
6.22 g of 5-cyanomethyl-6-isopropyl-1,3-benzodioxole (crude oil) was dissolved in 120 ml of ethanol, followed by the addition of 40 ml of water and 12.24 g of sodium hydroxide. The obtained mixture was stirred for 20 hours, while keeping the temperature of an oil bath at 100° C. The reaction mixture was concentrated, followed by the addition of water. The obtained mixture was washed with ethyl acetate. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with chloroform. The organic layer was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated to obtain 6.31 g of the title compound as a crude crystal.

reactant | 5-cyanomethyl-6-isopropyl-1,3-benzodioxole | 6.22 g | C(#N)CC1=CC2=C(OCO2)C=C1C(C)C | C12H13NO2
reactant | water | 40 ml | O | H2O
reactant | sodium hydroxide | 12.24 g | [OH-].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | (6-Isopropyl-1,3-benzodioxol-5-yl)acetic acid | 6.31 g | C(C)(C)C=1C(=CC2=C(OCO2)C1)CC(=O)O | C12H14O4
